US07211573B2
e) (6R,7S)-7-Amino-6-ethyl-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one
The title compound was prepared in 81% yield by reaction of 460 mg (1.50 mmol) ((6R,7S)-6-ethyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-carbamic acid tert-butyl ester with 2.23 g (22.5 mmol) ortho phosphoric acid in 4 ml tetrahydrofurane, MS m/e (%): 207.1 (M+H+, 100).

reactant | ((6R,7S)-6-ethyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-carbamic acid tert-butyl ester | 1.50 mmol, 460 mg | C(C)(C)(C)OC(N[C@H]1[C@H](OC2=C(NC1=O)C=CC=C2)CC)=O | C16H22N2O4
reactant | ortho phosphoric acid | 22.5 mmol, 2.23 g | P(O)(O)(O)=O | H3O4P
solvent | tetrahydrofurane | 4 ml | O1CCCC1 | C4H8O
product | (6R,7S)-7-Amino-6-ethyl-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one | 81% yield | N[C@H]1[C@H](OC2=C(NC1=O)C=CC=C2)CC | C11H14N2O2
